US05053414
Synthesis of 1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethan-1-one
A mixture of (1RS)-1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethanol (103 mg), Dess-Martin reagent (435 mg) and methylene chloride (1.5 ml) was stirred for 3 hrs. at room temperature. After reaction, the raction solution was diluted with ether. The diluted solution was added dropwise to a saturated aq. solution of sodium bicarbonate (30 ml) wherein sodium thiosulfate (3.0 g) was dissolved. The mixture was stirred for 10 mins at room temperature. The mixture was extracted with EtOAc. The extract was washed, dried and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (52 mg) having the following physical data:

reactant | (1RS)-1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethanol | 103 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(F)(F)F)O)C | C18H23F3N2O3
reactant | Dess-Martin reagent | 435 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 3.0 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethan-1-one | 52 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(F)(F)F)=O)C | C18H21F3N2O3
